US05041453
Dry HCl gas is bubbled through a solution of 5-hydroxy-3-methylbenzo(b)thiophene-2-carboxylic acid (1.0 g, 4.81 mmol) in methanol (150 ml) for 1 hour at room temperature. The brown solution is refluxed for 2 hours and concentrated. Extraction with ether, washing with water, aqueous sodium bicarbonate, water and bring, drying (MgSO4) and concentration affords the crude product which is subjected to flash chromatography over silica gel. Elution with 33% ethyl acetate in hexane affords methyl 5-hydroxy-3-methylbenzo(b)thiophene-2-carboxylate.

reactant | HCl | Cl | ClH
reactant | 5-hydroxy-3-methylbenzo(b)thiophene-2-carboxylic acid | 4.81 mmol, 1.0 g | OC1=CC2=C(SC(=C2C)C(=O)O)C=C1 | C10H8O3S
reactant | methanol | 150 ml | CO | CH4O
product | methyl 5-hydroxy-3-methylbenzo(b)thiophene-2-carboxylate | OC1=CC2=C(SC(=C2C)C(=O)OC)C=C1 | C11H10O3S
